US07915284B2
1.1 6-Bromo-2-phenylimidazo[1,2-a]pyridine
1.99 g of 2-bromo-1-phenylethanone, 1.73 g of 2-amino-5-bromopyridine and 1 g of sodium hydrogen carbonate in a mixture of 20 ml of ethanol and 5 ml of water are placed in a round-bottomed flask. The mixture is heated at 80° C. for 4 h and left to cool and 40 ml of water are added. The mixture is stirred for 15 min and the precipitate is then recovered by filtration; it is washed with water and then with diisopropyl ether and dried in a desiccator. 1.8 g of compound are obtained. Mp=192-194° C.

reactant | 2-bromo-1-phenylethanone | 1.99 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | 2-amino-5-bromopyridine | 1.73 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | sodium hydrogen carbonate | 1 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 6-Bromo-2-phenylimidazo[1,2-a]pyridine | 1.8 g | BrC=1C=CC=2N(C1)C=C(N2)C2=CC=CC=C2 | C13H9BrN2
